US07393367B2
Step 1: Preparation of 3-bromo-4-(2-propenyloxy)benzaldehyde
3-Bromo-4-hydroxybenzaldehyde (20.1 g, 0.100 mol) and allyl bromide (14.5 g, 0.120 mol) were heated under reflux together with potassium carbonate (20.7 g, 0.150 mol) in 150 ml acetone (abs.) for 8 hours. After cooling, the solid was filtered off and washed with acetone. After complete concentration of the organic phase, there was obtained an oily residue that was used directly in the second step without further purification.

reactant | 3-Bromo-4-hydroxybenzaldehyde | 0.100 mol, 20.1 g | BrC=1C=C(C=O)C=CC1O | C7H5BrO2
reactant | allyl bromide | 0.120 mol, 14.5 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 0.150 mol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 3-bromo-4-(2-propenyloxy)benzaldehyde | BrC=1C=C(C=O)C=CC1OCC=C | C10H9BrO2
